US09388189B2
(S)-tert-Butyl (1-(5-((3-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate
(S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (500 mg, 1.04 mmol) was treated with 3-methoxybenzenethiol (219 mg, 1.56 mmol), potassium carbonate (216 mg, 1.56 mmol) and copper(I) iodide (297 mg, 1.56 mmol) according to the method described in Preparation 44. The residue was purified by reverse phase using Isolera® Purification System to give 154 mg (30% yield) to the title compound. Purity 100%.

reactant | (S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 1.04 mmol, 500 mg | IC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C19H21IN4O3
reactant | 3-methoxybenzenethiol | 1.56 mmol, 219 mg | COC=1C=C(C=CC1)S | C7H8OS
reactant | potassium carbonate | 1.56 mmol, 216 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 1.56 mmol, 297 mg | [Cu]I
product | (S)-tert-Butyl (1-(5-((3-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 30% yield | COC=1C=C(C=CC1)SC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C26H28N4O4S
